2145-05-15 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2145-5-14**] 12:40 PM
   No DVT L UE
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-5-14**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2145-5-15**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-15**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.1
   HR: 80 (62 - 89) bpm
   BP: 130/72(76) {106/51(65) - 162/80(99)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.6 kg (admission): 80 kg
             Total In:
                                                                  1,520 mL
                                                                    365 mL
   PO:
             TF:
   IVF:
                                                                  1,380 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  2,546 mL
                                                                    360 mL
   Urine:
                                                                  2,546 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 98%
   ABG: ///20/
   Ve: 7.1 L/min
   Physical Examination
   General: intubated, sedated
   HEENT: nasotracheal tube in place, mild facial swelling, prominent
   swollen tongue protruding from her mouth significantly decreased from
   yesterday, MMM
   Neck: + swelling anterior neck
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, trace-1+ LE edema bilaterally
   Skin:  no rashes
   Neurologic: Sedated
   Labs / Radiology
   221 K/uL
   10.1 g/dL
   152 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.9 mEq/L
   18 mg/dL
   103 mEq/L
   133 mEq/L
   30.6 %
   10.8 K/uL
         [image002.jpg]
                             [**2145-5-14**]  04:27 AM
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
   WBC
   8.5
   10.8
   Hct
   30.4
   30.6
   Plt
   222
   221
   Cr
   1.8
   1.4
   1.6
   TCO2
   19
   23
   Glucose
   173
   139
   152
   Other labs: PT / PTT / INR:14.2/38.3/1.2, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 72 year old female with dementia, CAD,
   HTN presents with angioedema, intubated for airway protection.
   # Angioedema: Unclear precipitating factor. Lisinopril was recently
   stopped and listed as an allergy for unclear reasons-- would wonder
   whether she started developing symptoms of angioedema on [**5-11**]. Also was
   recently exposed to levofloxacin. Would also consider an allergic
   reaction to food. No history of hereditary or acquired angioedema.
   Reportedly appears improved since arrival to the ED. Intubated for
   airway protection.
   - cont IV solumedrol 125mg IV q8
   - cont IV benadryl 50mg IV q6
   - cont IV pepcid 20mg IV q12
   - cont mechanical ventilation
   - change sedation to fentanyl/versed
   - consider ENT c/s for scope vs CT neck when ? ready for extubation to
   evaluate for lower airway edema
   - when ready for extubation will need anesthesia at bedside due to
   difficult intubation
   - no evidence to suggest infectious etiology so will hold off on
   antibiotics
   - pt should avoid lisinopril and levofloxacin in the future
   # Acute on chronic kidney disease: Cr is 1.9 on presentation. Likely
   pre-renal in the setting of decreased PO intake yesterday. Improved to
   baseline of 1.6 after 1 L NS.
   - cont to monitor
   # LUE swelling: ultrasound negative for DVT.
   - continue to monitor
   # Hyponatremia: Likely hypovolemic hyponatremia in the setting of acute
   renal failure felt to be pre-renal in etiology. Na trending up from 127
   to 133 this am. Recent baseline 137.
   - continue to follow sodium
   # Hypertension: Currently normotensive, likely effect from propofol.
   - will add back HCTZ when BP allows
   # H/o seizures: continue dilantin
   # FEN: No IVF, replete electrolytes prn, NPO
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI, bowel regimen
   # Access: PIV x 2
   # Code: presumed full
   # Communication:
   - Daughter [**First Name4 (NamePattern1) 3501**] [**Last Name (NamePattern1) 3016**] in [**State 3923**]: ([**Telephone/Fax (1) 5857**] (home)
   ([**Telephone/Fax (1) 5858**] (cell)
   - Brother in [**Name2 (NI) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 131**] in [**Name (NI) 914**] ([**Telephone/Fax (1) 5859**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5860**] (night nurse) ([**Telephone/Fax (1) 5861**]
   - [**First Name4 (NamePattern1) 538**] [**Last Name (NamePattern1) **] (day nurse)
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-5-14**] 04:20 AM
   20 Gauge - [**2145-5-14**] 04:21 AM
   Prophylaxis:
   DVT: SQH, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: presumed full
   Disposition:ICU

2145-05-15 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: angioedema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2145-5-14**] 12:40 PM
   L arm ? DVT
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-5-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-5-15**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: angioedema
   Genitourinary: Foley
   Flowsheet Data as of  [**2145-5-15**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.6
C (96
   HR: 67 (58 - 89) bpm
   BP: 119/62(76) {106/51(65) - 162/80(99)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.6 kg (admission): 80 kg
             Total In:
                                                                  1,520 mL
                                                                    537 mL
   PO:
             TF:
   IVF:
                                                                  1,380 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  2,546 mL
                                                                    485 mL
   Urine:
                                                                  2,546 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ///20/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube,
   nasotracheal intubation, subglottic/neck swelling
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   221 K/uL
   152 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.9 mEq/L
   18 mg/dL
   103 mEq/L
   133 mEq/L
   30.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2145-5-14**]  04:27 AM
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
   WBC
   8.5
   10.8
   Hct
   30.4
   30.6
   Plt
   222
   221
   Cr
   1.8
   1.4
   1.6
   TCO2
   19
   23
   Glucose
   173
   139
   152
   Other labs: PT / PTT / INR:14.2/38.3/1.2, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Angioedema presumed secondary to ACE.  Very difficult nasotracheal
   intubation.  Remains intubated for airway protection.  On steroids,
   antihistamines.  Careful airway management.  Submandibular swelling
   significantly reduced though throat edema/anterior neck edema remains
   impressive.  Will require cont mech intubation for several days as
   swelling subsides.  Can check for cuff leak as initial marker for
   improvement.  Likely neck CT to reasess later in the week.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-5-14**] 04:20 AM
   20 Gauge - [**2145-5-14**] 04:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2145-05-16 08:12:00 Physician Resident Progress Note
24 Hour Events:
   -No events, continues to be intubated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-5-16**] 12:11 AM
   Famotidine (Pepcid) - [**2145-5-16**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-16**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 54 (47 - 115) bpm
   BP: 118/52(68) {111/47(64) - 158/124(129)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 69.6 kg (admission): 80 kg
   Height: 63 Inch
             Total In:
                                                                    975 mL
                                                                    769 mL
   PO:
             TF:
                                                                     89 mL
                                                                    204 mL
   IVF:
                                                                    506 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    200 mL
   Urine:
                                                                    920 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 7.4 L/min
   Physical Examination
   General: intubated, sedated
   HEENT: nasotracheal tube in place, mild facial swelling, prominent
   swollen tongue protruding from her mouth significantly decreased from
   yesterday, MMM
   Neck: + swelling anterior neck
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, trace-1+ LE edema bilaterally
   Skin:  no rashes
   Neurologic: Sedated
   Labs / Radiology
   274 K/uL
   10.6 g/dL
   179 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.8 mEq/L
   26 mg/dL
   104 mEq/L
   133 mEq/L
   31.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2145-5-14**]  04:27 AM
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
                             [**2145-5-16**]  03:00 AM
   WBC
   8.5
   10.8
   11.7
   Hct
   30.4
   30.6
   31.8
   Plt
   222
   221
   274
   Cr
   1.8
   1.4
   1.6
   1.7
   TCO2
   19
   23
   Glucose
   173
   139
   152
   179
   Other labs: PT / PTT / INR:13.7/39.7/1.2, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 72 year old female with dementia, CAD,
   HTN presents with angioedema, intubated for airway protection.
   # Angioedema: Unclear precipitating factor. Lisinopril was recently
   stopped and listed as an allergy for unclear reasons-- would wonder
   whether she started developing symptoms of angioedema on [**5-11**]. Also was
   recently exposed to levofloxacin. Would also consider an allergic
   reaction to food. No history of hereditary or acquired angioedema.
   Reportedly appears improved since arrival to the ED. Intubated for
   airway protection.
   - decrease IV solumedrol to 80 mg IV q8
   - cont IV benadryl 50mg IV q6
   - cont IV pepcid 20mg IV q12
   - cont mechanical ventilation, possibly wean to pressure support when
   patient starts demonstrating signs of spontaneous breathing, possibly
   decrease respiratory rate
   - consider ENT c/s for scope vs CT neck when ? ready for extubation to
   evaluate for lower airway edema
   - when ready for extubation will need anesthesia at bedside due to
   difficult intubation
   - no evidence to suggest infectious etiology so will hold off on
   antibiotics
   - pt should avoid lisinopril and levofloxacin in the future
   # Acute on chronic kidney disease: Cr is 1.9 on presentation. Likely
   pre-renal in the setting of decreased PO intake yesterday. Improved to
   baseline of 1.6 after 1 L NS.
   - cont to monitor
   # Leukocytosis:  Slowly trending up, afebrile, likely due to steroid
   administration.  Will cont. to monitor and reduce steroids
   - F/U WBC
   # LUE swelling: ultrasound negative for DVT.
   - continue to monitor
   # Hyponatremia: Likely hypovolemic hyponatremia in the setting of acute
   renal failure felt to be pre-renal in etiology. Na trending up from 127
   to 133 and stable at 133 this am. Recent baseline 137.
   - continue to follow sodium
   # Hypertension: Currently normotensive
   - will add back HCTZ when BP allows
   # H/o seizures: continue dilantin
   # FEN: No IVF, replete electrolytes prn, NPO
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI, bowel regimen
   # Access: PIV x 2
   # Code: presumed full
   # Communication:
   - Daughter [**First Name4 (NamePattern1) 3501**] [**Last Name (NamePattern1) 3016**] in [**State 3923**]: ([**Telephone/Fax (1) 5857**] (home)
   ([**Telephone/Fax (1) 5858**] (cell)
   - Brother in [**Name2 (NI) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 131**] in [**Name (NI) 914**] ([**Telephone/Fax (1) 5859**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5860**] (night nurse) ([**Telephone/Fax (1) 5861**]
   - [**First Name4 (NamePattern1) 538**] [**Last Name (NamePattern1) **] (day nurse)
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-5-16**] 03:58 AM 30 mL/hour
   Lines:
   18 Gauge - [**2145-5-14**] 04:20 AM
   20 Gauge - [**2145-5-14**] 04:21 AM
   Prophylaxis:
   DVT: SQH, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: presumed full
   Disposition:ICU

2145-05-16 12:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: angioedema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - stable overnight
   - more secretions turning yellowish in color
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-5-16**] 12:11 AM
   Famotidine (Pepcid) - [**2145-5-16**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-16**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 63 (47 - 115) bpm
   BP: 125/56(71) {111/47(64) - 170/124(129)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.6 kg (admission): 80 kg
   Height: 63 Inch
             Total In:
                                                                    975 mL
                                                                  1,434 mL
   PO:
             TF:
                                                                     89 mL
                                                                    319 mL
   IVF:
                                                                    506 mL
                                                                  1,049 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    280 mL
   Urine:
                                                                    920 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                  1,154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   274 K/uL
   179 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.8 mEq/L
   26 mg/dL
   104 mEq/L
   133 mEq/L
   31.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2145-5-14**]  04:27 AM
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
                             [**2145-5-16**]  03:00 AM
   WBC
   8.5
   10.8
   11.7
   Hct
   30.4
   30.6
   31.8
   Plt
   222
   221
   274
   Cr
   1.8
   1.4
   1.6
   1.7
   TCO2
   19
   23
   Glucose
   173
   139
   152
   179
   Other labs: PT / PTT / INR:13.7/39.7/1.2, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Angioedema
   -presumed secondary to Levoquin (recent dose)  or ACE (was on for some
   time, stopped then recently restarted) both labeled as allergies
   -cont steroids, antihistamines
   -continued improvement in oral, submandibular, neck swelling
   Airway management
   -very difficult nasotracheal intubation
   -remains intubated for airway protection
   -check for leak with cuff deflattion
   -? CT neck to assess extent/severity of airway edema
   -given challenge of intubation, will need careful extubation plan to
   allow safe reintubation if required once determined ready
   Increase/change in nature of secretions on suctioning
   -send scx, GS
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-5-14**] 04:20 AM
   20 Gauge - [**2145-5-16**] 04:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2145-05-17 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ABG 7.48/27/129/21.  Patient likely hyperventilating to try to
   compensate for metabolic acidosis from renal failure, decreased the
   respiratory rate to compensate as patient is likely being forced to
   breath more due to the vent.
   - Urine lytes suggest ATN picture
   - Double lumen PICC placed but in MIDLINE position, so basically a
   midline
   - Spoke to daughter in room, sent sputum culture
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-5-16**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-17**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 76 (51 - 111) bpm
   BP: 133/57(75) {99/44(57) - 170/95(104)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.6 kg (admission): 80 kg
   Height: 63 Inch
             Total In:
                                                                  2,460 mL
                                                                  1,046 mL
   PO:
             TF:
                                                                    941 mL
                                                                    383 mL
   IVF:
                                                                  1,454 mL
                                                                    663 mL
   Blood products:
   Total out:
                                                                    544 mL
                                                                    180 mL
   Urine:
                                                                    544 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,916 mL
                                                                    866 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 222
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.48/27/129/23/-1
   Ve: 5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General: Intubated, sedated
   HEENT: nasotracheal tube in place, mild facial/neck swelling improved
   from yesterday
   Neck: + swelling anterior neck
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, trace-1+ LE edema bilaterally
   Skin:  no rashes
   Neurologic: Sedated
   Labs / Radiology
   271 K/uL
   10.2 g/dL
   158 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   28 mg/dL
   106 mEq/L
   137 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2145-5-14**]  04:27 AM
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
                             [**2145-5-16**]  03:00 AM
                             [**2145-5-16**]  03:27 PM
                             [**2145-5-16**]  05:10 PM
                             [**2145-5-17**]  03:19 AM
   WBC
   8.5
   10.8
   11.7
   13.0
   Hct
   30.4
   30.6
   31.8
   30.8
   Plt
   222
   221
   274
   271
   Cr
   1.8
   1.4
   1.6
   1.7
   1.8
   1.8
   TCO2
   19
   23
   21
   Glucose
   173
   139
   152
   179
   163
   158
   Other labs: PT / PTT / INR:13.6/48.2/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5856**] is a 72 year old female with dementia, CAD, HTN admitted
   with angioedema now intubated for airway protection with course
   complicated by ARF.
   .
   # Angioedema: Unclear precipitating factor. Lisinopril was recently
   stopped and listed as an allergy for unclear reasons-- would wonder
   whether she started developing symptoms of angioedema on [**5-11**]. Also was
   recently exposed to levofloxacin. Would also consider an allergic
   reaction to food. No history of hereditary or acquired angioedema, also
   unlikely given patient
s age. Reportedly appears improved since arrival
   to the ED. Intubated for airway protection.
   - Continue  IV solumedrol to 40mg IV q8
   - Continue IV benadryl 50mg IV q6
   - Continue IV pepcid 20mg IV q12
   - Continue mechanical ventilation, RSBI 222 today.
   - Change sedation to propafol, wean as tolerated with possible SBT
   later today.
   - Check cuff leak.
   - When ready for extubation will need anesthesia at bedside due to
   difficult intubation
   - no evidence to suggest infectious etiology so will hold off on
   antibiotics
   .
   # Acute on chronic kidney disease: Cr is 1.9 on presentation now 1.8
   with baseline creatinine of 1.5-1.8. FeNa 9.1 suggesting intra-renal
   pathology with no casts.  Patient does not appear to have had any
   hypotensive episodes (ATN) or contrast (CIN).
   - Trend creatinine
   - If creatinine does not improve, will check renal U/S and consult
   renal.
   .
   # Leukocytosis:  Slowly trending up, afebrile, likely due to steroid
   administration.  Will cont. to monitor and reduce steroids
   - Trend WBC
   .
   # Anemia: Stable hct.
   - Trend hct
   .
   # LUE swelling: ultrasound negative for DVT.
   - continue to monitor
   .
   # Hyponatremia: Serum sodium now within normal limits. Hyponatremia on
   admission likely secondary to hypovolemic hyponatremia in the setting
   of acute renal failure and improved with volume rescucitation.
   - Continue to follow sodium
   .
   # Hypertension: Currently normotensive
   - Hold home HCTZ given resolving ARF
   .
   # H/o seizures: continue dilantin
   FEN: TF, replete as necessary
   Prophylaxis: Heparin SQ
   Access: PIV, midline
   Code: Full
   Communication: Daughter [**First Name4 (NamePattern1) 3501**] [**Last Name (NamePattern1) 3016**] in [**State 3923**]: ([**Telephone/Fax (1) 5857**]
   (home), ([**Telephone/Fax (1) 5858**] (cell)
   - Brother in [**Name2 (NI) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 131**] in [**Name (NI) 914**] ([**Telephone/Fax (1) 5859**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5860**] (night nurse) ([**Telephone/Fax (1) 5861**]
   - [**First Name4 (NamePattern1) 538**] [**Last Name (NamePattern1) **] (day nurse)
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-5-17**] 06:35 AM 50.[**Telephone/Fax (5) 5909**] mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2145-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2145-05-18 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spiked to 100.7, pancultured
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Ace Inhibitors
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-5-17**] 07:56 AM
   Heparin Sodium (Prophylaxis) - [**2145-5-18**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-18**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 94 (59 - 107) bpm
   BP: 138/64(82) {101/46(59) - 153/101(109)} mmHg
   RR: 17 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.6 kg (admission): 69.5 kg
   Height: 63 Inch
             Total In:
                                                                  2,447 mL
                                                                    493 mL
   PO:
             TF:
                                                                  1,230 mL
                                                                    350 mL
   IVF:
                                                                    977 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    360 mL
   Urine:
                                                                    640 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,807 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (310 - 357) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 14 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   271 K/uL
   10.2 g/dL
   158 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   28 mg/dL
   106 mEq/L
   137 mEq/L
   30.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2145-5-14**]  04:27 AM
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
                             [**2145-5-16**]  03:00 AM
                             [**2145-5-16**]  03:27 PM
                             [**2145-5-16**]  05:10 PM
                             [**2145-5-17**]  03:19 AM
   WBC
   8.5
   10.8
   11.7
   13.0
   Hct
   30.4
   30.6
   31.8
   30.8
   Plt
   222
   221
   274
   271
   Cr
   1.8
   1.4
   1.6
   1.7
   1.8
   1.8
   TCO2
   19
   23
   21
   Glucose
   173
   139
   152
   179
   163
   158
   Other labs: PT / PTT / INR:13.6/48.2/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5856**] is a 72 year old female with dementia, CAD, HTN admitted
   with angioedema now intubated for airway protection with course
   complicated by ARF.
   .
   # Angioedema: Facial and neck swelling continues to improve.  Patient
   has a cuff leak and RSBI this AM <100. Unclear precipitating factor.
   Lisinopril was recently stopped and listed as an allergy for unclear
   reasons-- would wonder whether she started developing symptoms of
   angioedema on [**5-11**]. Also was recently exposed to levofloxacin. Would
   also consider an allergic reaction to food. No history of hereditary or
   acquired angioedema, also unlikely given patient
s age.
   - Continue  IV solumedrol to 40mg IV q8
   - Continue IV benadryl 50mg IV q6
   - Continue IV pepcid 20mg IV q12
   - Wean sedation, hold TF.
   - SBT today, if tolerates plan for extubation.
   - When ready for extubation will need anesthesia at bedside due to
   difficult intubation
   - no evidence to suggest infectious etiology so will hold off on
   antibiotics
   .
   # Fever: Patient febrile overnight to 100.7 but hemodynamically stable.
   Pan-cultured, antibiotics not started.
   - F/u culture data
   - Would consider initiating antimicrobial therapy if patient becomes
   febrile again.
   .
   # Acute on chronic kidney disease: AM labs still pending. Creatinine
   yesterday at 1.8 with baseline creatinine of 1.5-1.8. FeNa 9.1
   suggesting intra-renal pathology with no casts.  Patient does not
   appear to have had any hypotensive episodes (ATN) or contrast (CIN).
   - Trend creatinine
   .
   # Leukocytosis:  Slowly trending up, afebrile, likely due to steroid
   administration although in setting of fever overnight concerning for
   infectious process.  Will cont. to monitor and reduce steroids
   - Trend WBC and fever curve
   - F/u culture data
   .
   # Anemia: Stable hct.
   - Trend hct
   .
   # LUE swelling: ultrasound negative for DVT.
   - continue to monitor
   .
   # Hyponatremia: Serum sodium now within normal limits. Hyponatremia on
   admission likely secondary to hypovolemic hyponatremia in the setting
   of acute renal failure and improved with volume rescucitation.
   - Continue to trend sodium
   .
   # Hypertension: Currently normotensive
   - Hold home HCTZ given resolving ARF.
   .
   # H/o seizures: continue dilantin
   .
   FEN: TF, replete as necessary
   Prophylaxis: Heparin SQ
   Access: PIV, midline
   Code: Full
   Communication: Daughter [**First Name4 (NamePattern1) 3501**] [**Last Name (NamePattern1) 3016**] in [**State 3923**]: ([**Telephone/Fax (1) 5857**]
   (home), ([**Telephone/Fax (1) 5858**] (cell)
   - Brother in [**Name2 (NI) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 131**] in [**Name (NI) 914**] ([**Telephone/Fax (1) 5859**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5860**] (night nurse) ([**Telephone/Fax (1) 5861**]
   - [**First Name4 (NamePattern1) 538**] [**Last Name (NamePattern1) **] (day nurse)
   Disposition: ICU level of care for now, if extubated successfully will
   reeval.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-5-18**] 05:34 AM 50.[**Telephone/Fax (5) 5909**] mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2145-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2145-05-19 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - Intermitenent heliox for stridor
   - Lasix, -1200 overall by 6 pm
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Shellfish Derived
   Unknown;
   Ace Inhibitors
   Anaphylaxis;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-5-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-5-18**] 04:00 PM
   Furosemide (Lasix) - [**2145-5-18**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-19**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 89 (83 - 108) bpm
   BP: 149/60(82) {112/51(70) - 155/87(93)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 69.5 kg
   Height: 63 Inch
             Total In:
                                                                  1,340 mL
                                                                    237 mL
   PO:
                                                                    520 mL
                                                                    170 mL
   TF:
                                                                    405 mL
   IVF:
                                                                    355 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,185 mL
                                                                    720 mL
   Urine:
                                                                  3,185 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 259 (259 - 379) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 6.5 L/min
   Physical Examination
   General: NAD
   HEENT: Neck and lip swelling much improved
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Trace edema bilaterally
   Skin:  no rashes
   Labs / Radiology
   230 K/uL
   9.1 g/dL
   73 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   27.5 %
   14.2 K/uL
        [image002.jpg]
                             [**2145-5-14**]  05:55 AM
                             [**2145-5-14**]  06:02 AM
                             [**2145-5-14**]  09:00 PM
                             [**2145-5-15**]  02:28 AM
                             [**2145-5-16**]  03:00 AM
                             [**2145-5-16**]  03:27 PM
                             [**2145-5-16**]  05:10 PM
                             [**2145-5-17**]  03:19 AM
                             [**2145-5-18**]  04:09 AM
                             [**2145-5-19**]  02:57 AM
   WBC
   8.5
   10.8
   11.7
   13.0
   15.4
   14.2
   Hct
   30.4
   30.6
   31.8
   30.8
   29.4
   27.5
   Plt
   222
   221
   274
   271
   206
   230
   Cr
   1.8
   1.4
   1.6
   1.7
   1.8
   1.8
   1.6
   1.7
   TCO2
   23
   21
   Glucose
   173
   139
   152
   179
   163
   158
   140
   73
   Other labs: PT / PTT / INR:13.6/48.2/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5856**] is a 72 year old female with dementia, CAD, HTN admitted
   with angioedema now intubated for airway protection with course
   complicated by ARF.
   .
   # Angioedema: Facial and neck swelling continues to improve. Patient
   extubated successfully yesterday with stridor noted several hours
   post-intubation treated with heliox.
   - Convert to prednisone 40 mg daily, plan for short course taper.
   - Convert benadryl to po prn
   - [**Last Name (un) **] famotidine to PO.
   .
   # Fever: Patient afebrile overnight.
   - Culture data NGTD
   - Would consider initiating antimicrobial therapy if patient becomes
   febrile.
   .
   # Acute on chronic kidney disease: Creatinine now at baseline.
   - Trend creatinine
   .
   # Leukocytosis:  Stable today, afebrile, likely due to steroid
   administration.
   - Trend WBC and fever curve
   - F/u culture data
   .
   # Anemia: Stable hct.
   - Trend hct
   .
   # LUE swelling: ultrasound negative for DVT.
   - continue to monitor
   .
   # Hyponatremia: Serum sodium now within normal limits. Hyponatremia on
   admission likely secondary to hypovolemic hyponatremia in the setting
   of acute renal failure and improved with volume rescucitation.
   - Continue to trend sodium
   .
   # Hypertension: Currently normotensive
   - Holding home HCTZ
   .
   # H/o seizures: Continue dilantin
   .
   FEN: Regular, replete as necessary
   Prophylaxis: Heparin SQ
   Access: PIV, midline
   Code: Full
   Communication: Daughter [**First Name4 (NamePattern1) 3501**] [**Last Name (NamePattern1) 3016**] in [**State 3923**]: ([**Telephone/Fax (1) 5857**]
   (home), ([**Telephone/Fax (1) 5858**] (cell)
   - Brother in [**Name2 (NI) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 131**] in [**Name (NI) 914**] ([**Telephone/Fax (1) 5859**]
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5860**] (night nurse) ([**Telephone/Fax (1) 5861**]
   - [**First Name4 (NamePattern1) 538**] [**Last Name (NamePattern1) **] (day nurse)
   Disposition: Call out today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2145-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: